US07405300B2
2-Chloro-1H-indole-3-carboxaldehyde is reacted with t-butyl-1-piperazinecarboxylate as described in Step 2 of Example 29 to afford 4-(3-formyl-1-phenyl-1H-indol-2-yl)piperazine-1-carboxylic acid tert-butyl ester (43% yield) as a yellow solid. ESI/MS 300 (M), 306 [M-CO2C(CH3)3], 350 [M-C(CH3)3], 406 (M+H); RT=3.89 min; NMR 10.15 (1H, s); 8.14 (1H, d, J=9 Hz); 7.69 (5H, m); 7.22 (2H, m); 6.94 (1H, d, J=9 Hz); 3.22 (8H, 2 br m); 1.37 (9H, s).

reactant | 2-Chloro-1H-indole-3-carboxaldehyde | ClC=1NC2=CC=CC=C2C1C=O | C9H6ClNO
reactant | t-butyl-1-piperazinecarboxylate | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
product | 4-(3-formyl-1-phenyl-1H-indol-2-yl)piperazine-1-carboxylic acid tert-butyl ester | 43% yield | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1N(C2=CC=CC=C2C1C=O)C1=CC=CC=C1 | C24H27N3O3
